US06562789B2
a) Preparation of N-octyloxycarbonyl-β-alanine
20 g (224.46 mmol) of β-alanine were dissolved in 225 ml of 1N sodium hydroxide solution. 44 ml of octyl chloroformate were then added dropwise, while keeping the pH of the reaction medium above 9 by simultaneous addition of one molar equivalent of 1N sodium hydroxide. After stirring for 6 hours at room temperature, the mixture was acidified with about 1.1 molar equivalents of 3N hydrochloric acid solution. The heterogeneous mixture was extracted with 300 ml of ethyl acetate. The organic phase was washed with 3 times 80 ml of water, dried and then evaporated to dryness. The solid residue was taken up in heptane and then filtered and dried. 51 g of a white product were obtained (yield of 93%).

reactant | β-alanine | 224.46 mmol, 20 g | NCCC(=O)O | C3H7NO2
reactant | octyl chloroformate | 44 ml | ClC(=O)OCCCCCCCC | C9H17ClO2
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | sodium hydroxide | 1N, 225 ml | [OH-].[Na+]
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | N-octyloxycarbonyl-β-alanine | 51 g, yield of 93% | C(CCCCCCC)OC(=O)NCCC(=O)O | C12H23NO4
